* gnetlist -g spice-sdb lcr.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*==============  Begin SPICE netlist of main design ============
V1 0 Vex unknown
R1 2 0 220R  
R2 2 1 3R6  
L1 Vex 1 4m4H 
.end
